US07960394B2
6-Chloro-2-[2-methoxy-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 5-amino-2-chloroisonicotinic acid, methylamine and 2-methoxy-4-(3-pyrrolidin-1-ylpropoxy)benzaldehyde.

reactant | 5-amino-2-chloroisonicotinic acid | NC1=CN=C(C=C1C(=O)O)Cl | C6H5ClN2O2
reactant | methylamine | CN | CH5N
reactant | 2-methoxy-4-(3-pyrrolidin-1-ylpropoxy)benzaldehyde | COC1=C(C=O)C=CC(=C1)OCCCN1CCCC1 | C15H21NO3
product | 6-Chloro-2-[2-methoxy-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one | ClC1=CC2=C(N=C(N(C2=O)C)C2=C(C=C(C=C2)OCCCN2CCCC2)OC)C=N1 | C22H25ClN4O3
